*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.20e-05[uF]/630[V]
* Murata P/N :GCM21A5C2J120FX01
* Property : C = 1.20e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J120FX01 Port1 Port2
C01 Port1 N01 1.20e-11
R01 Port1 N01 1.00e+11
L02 N01 N02 6.86e-11
R03 N02 N03 2.95e-01
C04 N03 N04 5.22e-09
R04 N03 N04 1.49e+01
L05 N04 N05 1.60e-11
R05 N04 N05 7.26e-01
C06 N05 N06 1.14e-11
L06 N05 N06 5.04e-11
R06 N05 N06 1.49e+01
C07 N06 Port2 8.42e-13
L07 N06 Port2 4.54e-10
R07 N06 Port2 2.06e+02
.ENDS GCM21A5C2J120FX01
